US07514566B2
To a 250 mL round-bottomed flask was added tert-butyl (2S,3S)-1-oxo-1-((R)-2-oxo-4-phenyloxazolidin-3-yl)-3-(4-(trifluoromethyl)phenyl)butan-2-ylcarbamate (4.80 g, 9.7 mmol), diethyl ether (50.00 mL, 481 mmol), and water (0.19 mL, 11 mmol). The resulting solution was cooled in an ice bath. Lithium borohydride (0.23 g, 11 mmol) was added in one portion and gas evolution was observed. The ice bath was removed, and the solution was stirred for about 12 hours. The reaction was followed by LCMS and once completed, was quenched by the addition of brine. The aqueous layer was extracted with EtOAc (×3), and the combined organic layers were washed with brine, dried over magnesium sulfate, filtered, and adsorbed onto a plug of silica gel and chromatographed through a Redi-Sep® pre-packed silica gel column (120 g), eluting with a gradient of 20% to 60% EtOAc in hexane, to provide tert-butyl (2S,3S)-1-hydroxy-3-(4-(trifluoromethyl)phenyl)butan-2-ylcarbamate (2.15 g, 66% yield).

reactant | tert-butyl (2S,3S)-1-oxo-1-((R)-2-oxo-4-phenyloxazolidin-3-yl)-3-(4-(trifluoromethyl)phenyl)butan-2-ylcarbamate | 9.7 mmol, 4.80 g | O=C([C@H]([C@@H](C)C1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O)N1C(OC[C@H]1C1=CC=CC=C1)=O | C25H27F3N2O5
reactant | diethyl ether | 481 mmol, 50.00 mL | C(C)OCC | C4H10O
reactant | water | 11 mmol, 0.19 mL | O | H2O
reactant | Lithium borohydride | 11 mmol, 0.23 g | [BH4-].[Li+]
product | tert-butyl (2S,3S)-1-hydroxy-3-(4-(trifluoromethyl)phenyl)butan-2-ylcarbamate | 2.15 g, 66% yield | OC[C@H]([C@@H](C)C1=CC=C(C=C1)C(F)(F)F)NC(OC(C)(C)C)=O | C16H22F3NO3
